US05151545
Methyl (E)-8-(Thioxanthen-9-ylidene)-5-hydroxy -3-oxo-6-octenoate
By the method of Example 1, (E)-4-(thioxanthen-9-ylidene)-2-butenal (1.94 g, 7.34 mmol) was reacted with methyl acetoacetate to form present title product, 1.43 g.

reactant | (E)-4-(thioxanthen-9-ylidene)-2-butenal | 7.34 mmol, 1.94 g | C1=CC=CC=2SC3=CC=CC=C3C(C12)=C/C=C/C=O | C17H12OS
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
product | Methyl (E)-8-(Thioxanthen-9-ylidene)-5-hydroxy -3-oxo-6-octenoate | C1=CC=CC=2SC3=CC=CC=C3C(C12)=C/C=C/C(CC(CC(=O)OC)=O)O | C22H20O4S
